US05292732
2-(2-Bromoethyl)-1,3-dioxolane (45 ml) was added dropwise within 15 minutes under argon and while stirring at a maximum 30° C. to a suspension of Rieke magnesium, prepared from 51.2 g of magnesium chloride, in 1300 ml of absolute tetrahydrofuran. The suspension was stirred at room temperature for 15 minutes, cooled to 0° C. and, after the addition of 49.6 g of copper(I) bromide, stirred at 5° C. for 15 minutes. After cooling to -70° C. 50.0 g of p-anisoyl chloride dissolved in 150 ml of absolute tetrahydrofuran were added dropwise within 20 minutes. The reaction mixture was stirred at -70° C. for 30 minutes and at room temperature for 2 hours and subsequently hydrolyzed with 800 ml of saturated ammonium chloride solution while cooling at a maximum 30° C. After the addition of 500 ml of water the mixture was extracted three times with 700 ml of ethyl acetate each time. The combined organic extracts were washed with 1000 ml of saturated sodium chloride solution, dried over MgSO4 and freed from solvent. 82.4 g of dark brown oil were chromatographed on 2000 g of silica gel with ethyl acetate/hexane (1:1) as the eluent. 48.8 g (71%) of 3-(1,3-dioxolan-2-yl)-4'-methoxypropiophenone were isolated as a yellow-orange oil.

reactant | 2-(2-Bromoethyl)-1,3-dioxolane | 45 ml | BrCCC1OCCO1 | C5H9BrO2
reactant | magnesium | [Mg] | Mg
reactant | magnesium chloride | 51.2 g | [Cl-].[Mg+2].[Cl-]
reactant | p-anisoyl chloride | 50.0 g | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
reactant | ammonium chloride | 800 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 1300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
catalyst | copper(I) bromide | 49.6 g | [Cu]Br
solvent | water | 500 ml | O | H2O
product | 3-(1,3-dioxolan-2-yl)-4'-methoxypropiophenone | 48.8 g, 71% | O1C(OCC1)CCC(=O)C1=CC=C(C=C1)OC | C13H16O4
